US06177440B1
40% Methanolic Triton B (2.18 mL, 4.8 mM) was slowly added dropwise to a solution of 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one (973 mg, 4.0 mM) in 10 mL of DMF at −10° C. After 30 minutes, 2-(trifluoromethyl)benzyl bromide (1.3 g, 5.2 mM) was added and the resultant mixture stirred at room temperature for 23 hours. The mixture was diluted with ethyl acetate, washed five times with H2O, once with saturated brine, dried over anhydrous magnesium sulfate, filtered, concentrated, and dried in vacuo to afford 1.34 g (83%) of the 9-[(2-trifluoromethylphenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one as a tan solid. 1H NMR (CDCl3) δ 7.7 (d, 1H, J=8 Hz), 7.4-7.1 (m, 5H), 6.4 (d, 1H, J=8 Hz), 5.5 (s, 2H), 4.05 (s, 3H), 2.8 (t, 2H, J=6 Hz), 2.6 (t, 2H, J=6 Hz), and 2.2 (m, 2H). IR (KBr, cm−1) 1729 and 1656. MS (ES) m/e 402.

reactant | 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one | 4.0 mM, 973 mg | C(=O)(OC)C1=C2C=3C(CCCC3NC2=CC=C1)=O | C14H13NO3
reactant | 2-(trifluoromethyl)benzyl bromide | 5.2 mM, 1.3 g | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(2-trifluoromethylphenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 1.34 g, 83% | FC(C1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC)(F)F | C22H18F3NO3
